US05776951
(e) N-(2-Bromo-4,6-Difluorophenyl) Pivalamide
2-Bromo-4,6-difluoroaniline (10.4 g, Aldrich) was dissolved in dichloromethane (75 ml) and treated with pyridine (4.63 g) in an ice bath. 4-Dimethylaminopyridine (0.61 g) was then added and the mixture was allowed to warn to room temperature. After dropwise addition of pivaloyl chloride (7.23 g, BDH), the reaction was stirred for 5 hours. On completion, the mixture was added to diethyl ether (250 ml), washed twice with 2M HCI (250 ml) and the resulting organic layer was treated with saturated NaHCO3 (2×250 ml). The organic layer was washed with water (250 ml), and dried over MgSO4. Removal of the solvent from the filtrate gave the crude title product as a white solid (13.40 g).

reactant | 2-Bromo-4,6-difluoroaniline | 10.4 g | BrC1=C(N)C(=CC(=C1)F)F | C6H4BrF2N
reactant | pyridine | 4.63 g | N1=CC=CC=C1 | C5H5N
reactant | pivaloyl chloride | 7.23 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | diethyl ether | 250 ml | C(C)OCC | C4H10O
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
catalyst | 4-Dimethylaminopyridine | 0.61 g | CN(C1=CC=NC=C1)C | C7H10N2
product | N-(2-Bromo-4,6-Difluorophenyl) Pivalamide | 13.40 g | BrC1=C(C(=CC(=C1)F)F)NC(C(C)(C)C)=O | C11H12BrF2NO
